US06982348B2
To a solution of (2RS,3RS)-3-(4-fluorophenyl)-2-(4-fluorobenzyl)-3-hydroxypropionic acid (13.8 g, 47.2 mmol) in tetrahydrofuran (150 ml) were added diphenylphosphoryl azide (13.2 ml, 61.4 mmol) and triethylamine (9.2 ml, 66.1 mmol) and the mixture was stirred for 30 min. The mixture was further heated under reflux for 4 hrs. and allowed to stand at room temperature. Water (200 ml) was added and the mixture was extracted with ethyl acetate (200 ml). The extract was washed with 1N hydrochloric acid and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, passed through a small amount of silica gel and evaporated under reduced pressure. The residue was crystallized from hexane-ethyl acetate to give (4RS,5SR)-5-(4-fluorophenyl)-4-((4-fluorophenyl)methyl)-1,3-oxazolidin-2-one (12.8 g, 94%) as crystals.

reactant | (2RS,3RS)-3-(4-fluorophenyl)-2-(4-fluorobenzyl)-3-hydroxypropionic acid | 47.2 mmol, 13.8 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC=C(C=C1)F)O | C16H14F2O3
reactant | diphenylphosphoryl azide | 61.4 mmol, 13.2 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 66.1 mmol, 9.2 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 200 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-fluorophenyl)-4-((4-fluorophenyl)methyl)-1,3-oxazolidin-2-one | 12.8 g, 94% | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)F | C16H13F2NO2
